US08748624B2
STEP A: ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (4.2 g, 19.8 mmol) was added to a DCE solution (45 mL) of ethyl 3-(5-(2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate, prepared as described in Example 22, (3.9 g, 9.9 mmol), 3-chloro-4-iodoaniline (3.0 g, 11.9 mmol), and AcOH (2.8 mL, 49.4 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 19.8 mmol, 4.2 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | C(=O)C1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H17F3N2O4
reactant | 3-chloro-4-iodoaniline | 9.9 mmol, 3.9 g | ClC=1C=C(N)C=CC1I | C6H5ClIN
reactant | AcOH | 49.4 mmol, 2.8 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 45 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | ClC=1C=C(C=CC1I)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C25H22ClF3IN3O3
